US05359043
Triphenodioxazine Dye
3,10-bis(4-amino-3-sulphophenylamino)-6,13-dichlorotripheno dioxazine-4,11-disulphonic acid (M.I. 2585, 25.85 g, 0.01M) was dissolved in water (300 ml) at pH 7. A solution of N-(2,4-dichlorotriazin-6-yl) methanesulphonmethylamide (5.93 g, 0.02M) in acetone (80 ml) was added and the mixture stirred at 25° C. and pH 7 for 3 hours. Salt (5% w/v) was added with stirring and the precipitated solid was collected, washed and dried. Yield 1.7 g, M.I. 1472.

reactant | 3,10-bis(4-amino-3-sulphophenylamino)-6,13-dichlorotripheno dioxazine-4,11-disulphonic acid | 0.01M, 25.85 g | NC1=C(C=C(C=C1)NC=1C=CC=2N=C3C(=C4OC5=C(C(=CC=C5N=C4C(=C3OC2C1S(=O)(=O)O)Cl)NC1=CC(=C(C=C1)N)S(=O)(=O)O)S(=O)(=O)O)Cl)S(=O)(=O)O | C30H20Cl2N6O14S4
solvent | water | 300 ml | O | H2O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | Triphenodioxazine | C1=CC=CC=2OC3=CC4=NC5=CC=CC=C5OC4=CC3=NC12 | C18H10N2O2
